US04853308
A mixture of 17.9 grams of 2,7-diiodo-9,9-bis[2-(methoxycarbonyl)ethyl]fluorene, 4.3 grams of copper bronze, 12.5 grams of potassium carbonate in 30 milliliters of SoltrolR 220 was mechanically stirred and heated to 150° C. under a nitrogen atmosphere. Fifteen (15.0) grams of molten N-phenyl-m-toluidine was then added dropwise at 150° C. After addition, the resulting mixture was heated at 210° C. under reflux for 24 hours. The hot reaction mixture was filtered, and the filter cake was washed several times with hot cyclohexane. Subsequently, the combined filtrate was evaporated under reduced pressure to yield a brown residue, which was purified by column chromatography on silica gel to afford 15.2 grams of pure 9,9-bis[2-(methoxycarbonyl)ethyl]-2,7bis(phenyl-m-tolylamino)fluorene, melting point, 159° to 160° C.

reactant | 2,7-diiodo-9,9-bis[2-(methoxycarbonyl)ethyl]fluorene | 17.9 grams | IC1=CC=2C(C3=CC(=CC=C3C2C=C1)I)(CCC(=O)OC)CCC(=O)OC | C21H20I2O4
reactant | potassium carbonate | 12.5 grams | C([O-])([O-])=O.[K+].[K+]
reactant | N-phenyl-m-toluidine | C1(=CC=CC=C1)NC1=CC(=CC=C1)C | C13H13N
catalyst | copper bronze | 4.3 grams | [Cu] | Cu
product | 9,9-bis[2-(methoxycarbonyl)ethyl]-2,7bis(phenyl-m-tolylamino)fluorene | 15.2 grams | COC(=O)CCC1(C2=CC(=CC=C2C=2C=CC(=CC12)N(C=1C=C(C=CC1)C)C1=CC=CC=C1)N(C=1C=C(C=CC1)C)C1=CC=CC=C1)CCC(=O)OC | C47H44N2O4
